US04166178
7β-(t-Butoxycarbonyl)amino-3-[2-(N-carboethoxycarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid (275 mg) is dissolved in trifluoroacetic acid (2 ml) under ice-cooling and the mixture is stirred for 20 minutes. The solution is concentrated and to the residue, ether (20 ml) is added. The resultant precipitate is triturated, collected by filtration, washed with ether and dried over phosphorus pentoxide. The procedure provides 7β-amino-3-[2-(N-carboethoxycarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid (195 mg). In NMR spectrum, this product is good agreement with the product obtained in Example 20.

reactant | 7β-(t-Butoxycarbonyl)amino-3-[2-(N-carboethoxycarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid | 275 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)C(NC(=O)OCC)=O)=O)C(=O)O)C1=O | C24H27N3O10S
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-amino-3-[2-(N-carboethoxycarbamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid | 195 mg | N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)C(NC(=O)OCC)=O)=O)C(=O)O)C1=O | C19H19N3O8S
